US04314065
(b) 2-Amino-4-trifluoromethylphenol
Sodium dithionite (97.0 g, 0.5 mole) was added in portions over a period of 6 hours to a solution of 2-nitro-4-trifluoromethylphenol (31 g, 0.15 mole) in a mixture of ethanol (120 ml) and water (90 ml), the solution being heated, with stirring, at a temperature of 55° C. during the addition. The mixture was filtered, the filtrate retained, and the collected solid was triturated with ethanol and refiltered. The solvent was removed from the combined filtrates by distillation under reduced pressure to give a yellow solid. The solid was dissolved in water, the aqueous solution extracted with diethyl ether (4×100 ml) and the combined ethereal phases were washed with brine. The ethereal phase was dried over anhydrous magnesium sulfate and the solvent evaporated to give a yellow solid which was recrystallised from petroleum ether (700 ml, bp 100°-120° C.) to give the title compound as a pale yellow solid (10.6 g).

reactant | Sodium dithionite | 0.5 mole, 97.0 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 2-nitro-4-trifluoromethylphenol | 0.15 mole, 31 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)O | C7H4F3NO3
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | water | 90 ml | O | H2O
product | 2-Amino-4-trifluoromethylphenol | 10.6 g | NC1=C(C=CC(=C1)C(F)(F)F)O | C7H6F3NO
